US08685975B2
2-(4-Ethoxy-3,5-dimethoxyphenyl)furan was coupled with N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide according to the procedure for the synthesis of Example 12. Purification by chromatography (EtOAc-hexanes) gave 1-(5-(4-ethoxy-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone as a yellow foam (0.263 g, 58% yield). MS: m/z 482.2 [M+H]+.

reactant | 2-(4-Ethoxy-3,5-dimethoxyphenyl)furan | C(C)OC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C14H16O4
reactant | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
product | 1-(5-(4-ethoxy-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(4-morpholinophenyl)ethanone | 0.263 g, 58% yield | C(C)OC1=C(C=C(C=C1OC)C1=CC=C(O1)C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)OC | C27H31NO7
